US08536168B2
6-((S)-3-Methyl-piperazin-1-yl)-nicotinonitrile (Compound 6)
Triethylamine (4.13 g, 3 mL, 40.8 mmol, 4 eq) is added to a solution of 6-chloro-nicotinonitrile (1.38 g, 10 mmol, 1 eq), (S)-2-methyl-piperazine (1.00 g, 10 mmol, 1 eq) in DMF (15 mL), and the resulting solution is stirred at rt for 14 h. A white precipitate of triethylamine hydrochloride forms in the course of the reaction. Water (15 mL) and EtOAc (100 mL) are added, the organic layer is separated, dried over sodium sulfate and concentrated under reduced pressure to a white residue. The solid is further dried under high vacuum to yield the desired product as a white solid (1.4 g, 69%).

reactant | Triethylamine | 40.8 mmol, 3 mL, 4.13 g, 4 eq | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-nicotinonitrile | 10 mmol, 1.38 g, 1 eq | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | (S)-2-methyl-piperazine | 10 mmol, 1.00 g, 1 eq | C[C@@H]1NCCNC1 | C5H12N2
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | Water | 15 mL | O | H2O
product | 6-((S)-3-Methyl-piperazin-1-yl)-nicotinonitrile | 1.4 g, 69% | C[C@H]1CN(CCN1)C1=NC=C(C#N)C=C1 | C11H14N4
